US08735384B2
A mixture of 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.013 g, 0.028 mmol), (2-bromo-3-methylphenyl)(o-tolyl)methanone (0.16 g, 0.563 mmol), 3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine (0.050 g, 0.141 mmol), Pd2(dba)3 (6.44 mg, 7.04 μmol) were treated with dioxane (0.94 mL) and water (0.47 mL) in a medium-sized Smith synthesizer vial. The mixture was heated to 140° C. for 12 min in a microwave reactor. The reaction mixture was filtered then partitioned between EtOAc and water. The organic layer was washed with water and brine and then concentrated in vacuo. The crude product was purified first by column chromatography (1-10% MeOH:DCM) and then by HPLC (10-90% CH3CN/H2O; TFA modifier). A single fraction was treated with NH4OH, concentrated, filtered and air-dried to afford (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(o-tolyl)methanone. MS (ESI, pos. ion) m/z: 438 (M+1).

reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.028 mmol, 0.013 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | (2-bromo-3-methylphenyl)(o-tolyl)methanone | 0.563 mmol, 0.16 g | BrC1=C(C=CC=C1C)C(=O)C1=C(C=CC=C1)C | C15H13BrO
reactant | 3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | 0.141 mmol, 0.050 g | O1CCN(CC1)C=1C(=NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C)N | C19H26BN3O3
reactant | dioxane | 0.94 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 7.04 μmol, 6.44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.47 mL | O | H2O
product | (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(o-tolyl)methanone | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(=O)C1=C(C=CC=C1)C | C28H27N3O2
